US08404672B2
A solution of tert-butyl 1-(4-(5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate (518 mg, 0.956 mmol) in trifluoroacetic acid (15 mL) was allowed to stand at room temperature for 1.5 h. The volatiles were removed under reduced pressure, and the residue was co-evaporated from ethyl acetate/hexanes. (2×10 mL). The residue was suspended in water (10 mL) and the pH was adjusted to ˜11 with 1N aqueous sodium hydroxide. To this solution was added sufficient 1N aqueous hydrochloric acid to adjust the pH ˜4.5. The resulting suspension was stirred at room temperature overnight. The white suspension was filtered through a medium porosity sintered glass filter, and the filter cake was washed thoroughly with water. The solid was dried, the white powder was suspended in methanol, and the suspension was sonicated until it was uniform. The methanol was removed under reduced pressure, and the procedure was repeated twice more to afford a white solid that was stirred as a suspension in methanol (˜30 mL) overnight. Vacuum filtration and drying afforded 1-(4-(5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazol-3-yl)benzyl)-azetidine-3-carboxylic acid (345 mg, 0.707 mmol, 74% yield) as a white powder. HPLC ret. time=3.45 min. (YMC Combi S-5 4.6×50 mm ODS column) eluting with 10-90% aqueous methanol+0.2% phosphoric acid over a 4 minute gradient. MS: (M+H)=486.12. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.23 (s, 3H), 3.39-3.45 (m, 2H), 3.64 (s, 2H), 7.50 (d, J=8.28 Hz, 2H), 7.58 (m, 5H), 8.02 (d, J=8.28 Hz, 2H), and 8.26 (d, J=1.25 Hz, 1H). Elemental Analysis: Calc. for C24H18N3O3SF3.0.1H2O: C, 59.22; H, 3.76; N, 8.63; S, 6.59; F, 11.71. Found: C24H18N3O3SF3.0.1H2O: C, 59.06; H, 3.45; N, 8.60; S, 6.61; F, 11.42; KF (Found)=0.25% water.

reactant | tert-butyl 1-(4-(5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate | 0.956 mmol, 518 mg | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C28H26F3N3O3S
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | ˜30 mL | CO | CH4O
product | 1-(4-(5-(4-phenyl-5-(trifluoromethyl)thiophen-2-yl)-1,2,4-oxadiazol-3-yl)benzyl)-azetidine-3-carboxylic acid | 0.707 mmol, 345 mg, 74% yield | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)O)C=C1 | C24H18F3N3O3S
